US05047425
2-[2-hydroxy-3-(4-hydroxyphenoxyl)-propylamino]-2-methyl-N-diphenylmethyl-N-methyl-propylamine dihydrochloride
A solution of b 2-[2-hydroxy-3-(4-phenylmethoxyphenoxy)-propylamino]-2-methyl-N-diphenylmethyl-N-methyl-propylamine dihydrochloride (5 g; 0.0084 mol), prepared as described in Example 10, in ethyl alcohol saturated with hydrochloric acid (50 ml) is refluxed for 6 hours.

reactant | 2-[2-hydroxy-3-(4-phenylmethoxyphenoxy)-propylamino]-2-methyl-N-diphenylmethyl-N-methyl-propylamine dihydrochloride | 0.0084 mol, 5 g | Cl.Cl.OC(CNC(CN(C)C(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)COC1=CC=C(C=C1)OCC1=CC=CC=C1
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | ethyl alcohol | C(C)O | C2H6O
product | 2-[2-hydroxy-3-(4-hydroxyphenoxyl)-propylamino]-2-methyl-N-diphenylmethyl-N-methyl-propylamine dihydrochloride | Cl.Cl.OC(CNC(CN(C)C(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)COC1=CC=C(C=C1)O | InChI=1S/C27H34N2O3.2ClH/c1-27(2,28-18-24(31)19-32-25-16-14-23(30)15-17-25)20-29(3)26(21-10-6-4-7-11-21)22-12-8-5-9-13-22;;/h4-17,24,26,28,30-31H,18-20H2,1-3H3;2*1H
